US07589232B2
5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-fluorobenzoyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
The titled compound was prepared following the procedure D using 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-fluorobenzoyl)amino]-2-hydroxybenzoic acid and N-methyl-D-glucamine as a white powder (37%). M− (ESI): 497.9. HPLC, Rt: 4.93 min (Purity: 99.2%).

reactant | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-fluorobenzoyl)amino]-2-hydroxybenzoic acid | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(C2=CC(=CC=C2)F)=O)C=C1 | C29H19ClFNO4
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
product | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-fluorobenzoyl)amino]-2-hydroxybenzoic acid N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(C2=CC(=CC=C2)F)=O)C=C1 | InChI=1S/C29H19ClFNO4.C7H17NO5/c30-23-12-10-20(11-13-23)5-4-19-6-8-21(9-7-19)18-32(28(34)22-2-1-3-24(31)16-22)25-14-15-27(33)26(17-25)29(35)36;1-8-2-4(10)6(12)7(13)5(11)3-9/h1-3,6-17,33H,18H2,(H,35,36);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
